US08669271B2
4-{2-[5-Chloro-2-(4-methanesulfonyl-phenyl)-pyrimidin-4-yl]-1-hydroxy-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
Sodium borohydride (50 mg) is added to an ice-cooled solution of 4-{2-[5-chloro-2-(4-methanesulfonyl-phenyl)-pyrimidin-4-yl]acetyl}-piperidine-1-carboxylic acid tert-butyl ester (280 mg) in a mixture of tetrahydrofuran (10 mL) and water (2 mL). The ice bath is removed after 5 min and the reaction mixture is stirred for 0.5 h at room temperature. 2 N Citric acid is added and the mixture is extracted with ethyl acetate. The combined extracts are washed with aqueous NaHCO3 solution and brine, dried over MgSO4, and concentrated in vacuo. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate 40:60→0:100) to give the title compound. LC (method 7): tR=1.48 min; Mass spectrum (ESI−): m/z=494 [M−H]−.

reactant | Sodium borohydride | 50 mg | [BH4-].[Na+]
reactant | 4-{2-[5-chloro-2-(4-methanesulfonyl-phenyl)-pyrimidin-4-yl]acetyl}-piperidine-1-carboxylic acid tert-butyl ester | 280 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC1=NC(=NC=C1Cl)C1=CC=C(C=C1)S(=O)(=O)C)=O | C23H28ClN3O5S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 4-{2-[5-Chloro-2-(4-methanesulfonyl-phenyl)-pyrimidin-4-yl]-1-hydroxy-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(CC1=NC(=NC=C1Cl)C1=CC=C(C=C1)S(=O)(=O)C)O | C23H30ClN3O5S
